US05599813
4-n-Heptylthioaniline
In 100 ml of acetonitrile was dissolved 5.90 g of 4-aminothiophenol. To the solution were added 6.57 ml of triethylamine and 8.44 g of n-heptylbromide, followed by stirring at room temperature for 18 hours. The precipitated crystals were collected by filtration, followed by removing the solvent. To the residue was added water and the mixture was extracted with ethyl acetate. The extract was washed successively with 1N sodium hydroxide aqueous solution and saturated sodium chloride aqueous solution and dried over anhydrous potassium carbonate. After removing the solvent, the residue was purified by silica gel column chromatography using 50 g of silica gel and using chloroform as eluent to obtain 6.06 g of the titled compound.

reactant | 4-aminothiophenol | 5.90 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | triethylamine | 6.57 ml | C(C)N(CC)CC | C6H15N
reactant | n-heptylbromide | 8.44 g | C(CCCCCC)Br | C7H15Br
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-n-Heptylthioaniline | 6.06 g | C(CCCCCC)SC1=CC=C(N)C=C1 | C13H21NS
